* source B5
V_V1         N01245 0 10Vdc
L_L1         N01363 0  100mH IC=0.0000714285714285 
X_S1         N01245 N01263 Sw_tClose PARAMS: tClose=2.99999933 ttran=1u
+  Rclosed=0.01 Ropen=100000Meg
R_R2         N01369 N01263  50k TC=0,0 
V_V2         N01369 0 5Vdc
R_R3         N01363 N01263  20k TC=0,0 
R_R1         0 N01245  200k TC=0,0 
